US07169780B2
Step 9: Methyl-5-(benzoyloxy)-2-{(2S,4S)-1-[(benzyloxy)carbonyl]-4-fluoropyrrolidin-2-yl}-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxylate.
Methyl-5-(benzoyloxy)-2-{(2S,4S)-1-[(benzyloxy)carbonyl]-4-fluoropyrrolidin-2-yl}-6-hydroxypyrimidine-4-carboxylate, dissolved in dry dioxane, was added to a suspension of lithium hydride (1.2 eq.) in dry dioxane. The reaction mixture was stirred at 38° C. for 45 minutes and then cooled down to room temperature. Dimethyl sulfate (1.3 eq.) was added and the mixture was heated to 58° C. and stirred at this temperature for 3 hours. The reaction mixture was then cooled down and glacial acetic acid (0.2 eq.) was added, followed by water and ethyl acetate. The aqueous layer was separated and extracted with ethyl acetate; the organic phase was dried over Na2SO4 and filtered to give, after concentration, a crude that was purified by flash chromatography (eluent petroleum ether:ethyl acetate from 4:6 to 2:8) to give the title compound as a 4.6:5.4 mixture of rotamers by NMR.

reactant | Methyl-5-(benzoyloxy)-2-{(2S,4S)-1-[(benzyloxy)carbonyl]-4-fluoropyrrolidin-2-yl}-6-hydroxypyrimidine-4-carboxylate | COC(=O)C1=NC(=NC(=C1OC(C1=CC=CC=C1)=O)O)[C@H]1N(C[C@H](C1)F)C(=O)OCC1=CC=CC=C1 | C25H22FN3O7
reactant | lithium hydride | 1.2 eq. | [H-].[Li+]
reactant | Dimethyl sulfate | 1.3 eq. | S(=O)(=O)(OC)OC | C2H6O4S
reactant | acetic acid | 0.2 eq. | C(C)(=O)O | C2H4O2
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | Methyl-5-(benzoyloxy)-2-{(2S,4S)-1-[(benzyloxy)carbonyl]-4-fluoropyrrolidin-2-yl}-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxylate | COC(=O)C=1N=C(N(C(C1OC(C1=CC=CC=C1)=O)=O)C)[C@H]1N(C[C@H](C1)F)C(=O)OCC1=CC=CC=C1 | C26H24FN3O7
